US06852732B2
In ethanol (3.0 mL) was dissolved 1-(2,4-dichlorophenyl)-4-(3-ethoxycarbonyl-4-oxopiperidin-1-yl)-2,3,6-trimethyl-1H-pyrrolo[2,3-b]pyridine (0.13 g), and the solution was cooled to −15° C. Then, sodium boro hydride (26 mg) was added thereto and the resulting mixture was stirred overnight while being slowly heated to 0° C. A saturated aqueous ammonium chloride solution was poured into the reaction mixture, which was then extracted three times with ethyl acetate. The combined organic layer was dried over anhydrous sodium sulfate. The desiccating agent was filtered off and the filtrate was concentrated under reduced pressure. The residue was purified by a silica gel column chromatography (silica gel: Wako Gel (C200), eluent: chloroform-methanol=50:1) to obtain 1-(2,4-dichlorophenyl)-4-(3-ethoxycarbonyl-4-hydroxy-piperidin-1-yl)-2,3,6-trimethyl-1H-pyrrolo[2,3-b]pyridine (35 mg).

reactant | 1-(2,4-dichlorophenyl)-4-(3-ethoxycarbonyl-4-oxopiperidin-1-yl)-2,3,6-trimethyl-1H-pyrrolo[2,3-b]pyridine | 0.13 g | ClC1=C(C=CC(=C1)Cl)N1C(=C(C=2C1=NC(=CC2N2CC(C(CC2)=O)C(=O)OCC)C)C)C | C24H25Cl2N3O3
reactant | sodium boro hydride | 26 mg | [BH4-].[Na+]
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | ethanol | 3.0 mL | C(C)O | C2H6O
product | 1-(2,4-dichlorophenyl)-4-(3-ethoxycarbonyl-4-hydroxy-piperidin-1-yl)-2,3,6-trimethyl-1H-pyrrolo[2,3-b]pyridine | 35 mg | ClC1=C(C=CC(=C1)Cl)N1C(=C(C=2C1=NC(=CC2N2CC(C(CC2)O)C(=O)OCC)C)C)C | C24H27Cl2N3O3
